* smoke_sar_bias -- harness acceptance testbench (NOT a SAR ADC)
*
* Netlist FRAGMENT. The harness supplies the title, the .include of the
* gf180mcu models, the corner .lib sections, .temp, the .control block and
* .end. Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* This circuit substantiates NO spec line. Its only job is to prove that the
* corner runner's PVT plumbing actually takes effect, so that later records
* against ratified spec lines can be trusted. Each branch is deliberately
* independent and probes a different axis:
*
*   1. ideal resistive divider   -> vdd_val parameter plumbing.
*                                   Ratio must be PVT-INVARIANT (control);
*                                   absolute value must track the supply.
*   2. diode-connected nfet_03v3 -> the MOS .lib section and .temp.
*                                   Vgs at a supply-independent 10 uA bias.
*   3. nfet_03v3 sampling switch -> the ADC-relevant one. Ron at Vgs = vdd
*                                   with Vds = 50 mV (deep triode) moves with
*                                   ALL THREE axes: process (mobility/Vth),
*                                   temperature (mobility), and supply
*                                   (overdrive). This is the measurement the
*                                   per-axis sensitivity checks lean on.
*
* Devices are restricted to the 3.3 V flavor (nfet_03v3) and unsalicided poly
* resistors -- the analog device set this block's input range implies.

vsup vdd 0 dc {vdd_val}

* --- 1. ideal divider: exactly vdd/2 at every corner, temperature and supply
Rtop vdd ndiv 100k
Rbot ndiv 0   100k

* --- 2. diode-connected 3.3 V nfet at a supply-independent 10 uA
Ibias vdd nbias dc 10u
XM1 nbias nbias 0 0 nfet_03v3 w=10u l=1u

* --- 3. sampling switch: gate hard on at vdd, 50 mV across the channel.
*        Ron = 50 mV / |i(vds)| is the quantity a SAR sampling network lives
*        or dies by, and it is sensitive to every PVT axis.
vds nd 0 dc 50m
XMSW nd vdd 0 0 nfet_03v3 w=20u l=0.28u

* --- PDK poly resistor, for the reference/bias ladder device class
XR1 vdd nres 0 ppolyf_u r_width=1u r_length=100u
Rterm nres 0 100k
